US04471116
A solution of 1-benzyloxy-4-[5-(1-methylethyl)aminophenoxy]benzene (24 g) in acetic acid (250 ml) was hydrogenated over 1 g 10% palladium on carbon. After shaking for 0.5 hours at room temperature, the theoretical amount of hydrogen was taken up. The solvent was removed by distillation in vacuo and the residue dissolved in water. The solution was basified with saturated sodium bicarbonate solution and the product was recovered by filtration to give 13.0 g (75%) of 4-[5-(1-methylethyl)aminopentoxy]phenol, mp 95°-99° (95.7% pure by gas chromatography). Mass spectrum was compatible with the expected product.

reactant | 1-benzyloxy-4-[5-(1-methylethyl)aminophenoxy]benzene | 24 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)OC1=CC=CC(=C1)NC(C)C | C22H23NO2
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
catalyst | palladium on carbon | 1 g | [Pd] | Pd
product | 4-[5-(1-methylethyl)aminopentoxy]phenol | 13.0 g, 75% | CC(C)NCCCCCOC1=CC=C(C=C1)O | C14H23NO2
